US07713994B2
2-Hydroxymethyl-5-propoxy-pyridin-4-ol
A mixture of 2-hydroxymethyl-5-propoxy-pyran-4-one (30.0 g, 0.163 mole), 150 mL ammonium hydroxide is stirred and heated in a sealed vessel at 90° C. for 2 hours. The reaction mixture is cooled, evaporated to dryness in-vacuo, taken up in 15% methanol in chloroform and passed thru a pad of magnesol and silica gel eluting with the same solvent. The eluate is evaporated, treated with acetone, filtered, washed with acetone and air dried to give a-grey solid, 8.03 g, (80%), m.p. 159-60° C.; MS (ES+): m/z 184.3 (M+H).

reactant | 2-hydroxymethyl-5-propoxy-pyran-4-one | 0.163 mole, 30.0 g | OCC=1OC=C(C(C1)=O)OCCC | C9H12O4
reactant | ammonium hydroxide | 150 mL | [OH-].[NH4+]
product | 2-Hydroxymethyl-5-propoxy-pyridin-4-ol | OCC1=NC=C(C(=C1)O)OCCC | C9H13NO3
